US04399163
To a mixture of 118.5 g. (1.0 mole) of cyclobutylcarbonyl chloride and 99 g. (1.0 mole) cuprous chloride in 1000 ml. of dry ether under a nitrogen atmosphere is added dropwise 478 ml. (1.0 mole) of 2 M t-butylmagnesium chloride in the same solvent. The addition is carried out at -5° to -15° C. The resulting mixture is poured into 500 ml. of 3 M hydrochloric acid and 700 g. ice, the organic layer is separated and washed successively with water, sodium bicarbonate solution, brine and dried (MgSO4). The dried ether extract is evaporated at reduced pressure and the residue distilled to provide t-butylcyclobutylketone.

reactant | cyclobutylcarbonyl chloride | 1.0 mole | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | t-butylmagnesium chloride | 1.0 mole, 2 M | C(C)(C)(C)[Mg]Cl
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | t-butylcyclobutylketone | C(C)(C)(C)C(=O)C1CCC1 | C9H16O
